US07129245B2
A. Ethyl N-Methylsulfonylisonipecotate
A solution of ethyl isonipecotate (4.9 mL, 31.8 mmol) and pyridine (2.8 mL, 34.6 mmol) was cooled to 0° C. Methanesulfonyl chloride (2.7 mL, 34.9 mmol) was added. After 1.5 hours, the reaction mixture was diluted with CH2Cl2 (300 mL) and extracted with saturated aqueous NaHCO3 (3×100 mL). The organic layer was dried over Na2SO4, filtered, and concentrated. The crude material was dissolved in EtOAc (400 mL), extracted with H2O (3×50 mL), dried over Na2SO4, filtered, and concentrated to give the pure product (5.42 g, 22.9 mmol, 72%) as a yellow solid. IR(CHCl3): 3027, 1726, 1331, 1158, 963.

reactant | ethyl isonipecotate | 31.8 mmol, 4.9 mL | N1CCC(C(=O)OCC)CC1 | C8H15NO2
reactant | pyridine | 34.6 mmol, 2.8 mL | N1=CC=CC=C1 | C5H5N
reactant | Methanesulfonyl chloride | 34.9 mmol, 2.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | Ethyl N-Methylsulfonylisonipecotate | 22.9 mmol, 5.42 g, 72% | CS(=O)(=O)N1CCC(C(=O)OCC)CC1 | C9H17NO4S
